US04882348
To a solution of 2-(2-aminoethylthio)-1-(3,5-diflorobenzyl)imidazole (2.69g, 0.010 mole) in absolute methanol (25 ml) is added 5N hydrochloric acid-methanol (1 ml, 0.005 mole) followed by propionaldehyde (4.25 g, 0.10 mole) and sodium cyanoborohydride (0.38 g, 0.006 mole). The reaction mixture is stirred at 25° C. for 72 hours and then concentrated hydrochloric acid is added until the pH is at least 2. The volatiles are removed in vacuo and then the residue is partitioned between water and ether. The layers are shaken together and separated, the pH of the aqueous extract is adjusted to greater than 10 with solid potassium hydroxide and then the product is extracted into ether. The ether extract is dried with anhydrous magnesium sulfate and then hydrogen chloride in ether is added slowly until a slight excess is present. The precipitated solid is filtered and recrystallized from ethanol ether to give 2-(2-propylaminoethylthio)-1-(3,5-difluorobenzyl)imidazole dihydrochloride.

reactant | 2-(2-aminoethylthio)-1-(3,5-diflorobenzyl)imidazole | 0.010 mole, 2.69g | NCCSC=1N(C=CN1)CC1=CC(=CC(=C1)F)F | C12H13F2N3S
reactant | hydrochloric acid methanol | 0.005 mole, 5N, 1 ml | Cl.CO
reactant | propionaldehyde | 0.10 mole, 4.25 g | C(CC)=O | C3H6O
reactant | sodium cyanoborohydride | 0.006 mole, 0.38 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
product | 2-(2-propylaminoethylthio)-1-(3,5-difluorobenzyl)imidazole dihydrochloride | Cl.Cl.C(CC)NCCSC=1N(C=CN1)CC1=CC(=CC(=C1)F)F | InChI=1S/C15H19F2N3S.2ClH/c1-2-3-18-5-7-21-15-19-4-6-20(15)11-12-8-13(16)10-14(17)9-12;;/h4,6,8-10,18H,2-3,5,7,11H2,1H3;2*1H
